US09056873B2
Preparation 9: 2-(5-Fluorothiophen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a solution of thiophene (252 mg, 2.99 mmol) in THF (3.5 mL) at −78° C. was added n-butyllithium (2.5M, 1.3 mL, 3.2 mmol) dropwise to keep the temperature below −70° C. The solution was stirred for 40 minutes at −78° C. A solution of N-fluorobenzenesulfonimide (987 mg, 3.1 mmol) in THF (5 mL) was added over a period of 20 minutes. The temperature of the mixture was allowed to rise to −10° C. and was subsequently cooled to −78° C. To the mixture was added n-butyllithium (2.5M, 1.3 mL, 3.2 mmol) and 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (580 mg, 3.1 mmol) in THF (2 mL). The reaction was allowed to continue at −78° C. for 30 min and then quenched with saturated aqueous ammonium chloride (10 mL). The organic layer was separated and the aqueous phase was extracted with EtOAc (3×15 mL). The organic layers were combined and dried over sodium sulfate. After removal of solvent, the residue was purified by flash chromatography (petroleum ether/ethyl acetate=20:1) to give the title compound (143 mg, 21%). 1H NMR (400 MHz, CDCl3) δ ppm 1.32 (s, 12H), 6.55 (d, J=3.6 Hz, 1H), 7.27 (d, J=3.6 Hz, 1H).

reactant | thiophene | 2.99 mmol, 252 mg | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 3.2 mmol, 2.5M, 1.3 mL | C(CCC)[Li]
reactant | N-fluorobenzenesulfonimide | 3.1 mmol, 987 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | n-butyllithium | 3.2 mmol, 2.5M, 1.3 mL | C(CCC)[Li]
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.1 mmol, 580 mg | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(5-Fluorothiophen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 143 mg, 21% | FC1=CC=C(S1)B1OC(C(O1)(C)C)(C)C | C10H14BFO2S
